US04098898
Reaction of 4-(4-aminobutyl)imidazole with dimethylcyanodithioimidocarbonate gives N-cyano-N'-[4-(4-imidazolyl)-butyl]-S-methylisothiourea which when reacted by the procedure of Example 12 with the following compounds:

reactant | 4-(4-aminobutyl)imidazole | NCCCCC=1N=CNC1 | C7H13N3
reactant | dimethylcyanodithioimidocarbonate | CSC(SC)=NC#N | C4H6N2S2
product | N-cyano-N'-[4-(4-imidazolyl)-butyl]-S-methylisothiourea | C(#N)NC(SC)=NCCCCC=1N=CNC1 | C10H15N5S
